US05929266
(1R,7S)-1,3,10,10-Tetramethyltricyclo-[5.2.1 .02,6 ]-deca-2,5-dienyl)(η5 -cyclopentadienyl)titanium dichloride (21 mg, 0.05 mmol, prepared as in Example 6) together with 2-phenyl-1-butene (132 mg, 1 mmol) and freshly distilled toluene (5 ml) were placed into a 50 ml round-bottomed flask. After degassing with three freeze/thaw cycles the vessel was filled with hydrogen (3 evacuate/refill cycles). n-Butyllithium (0.2 ml, 22.5 M, 0.5 mmol) was then added via syringe at room temperature and the resulting dark grey/green reaction mixture was stirred under a pressure of 20 p.s.i. hydrogen, while excluding light, for 40 hours. The hydrogen pressure was vented and the reaction vessel opened to air. Aqueous hydrochloric acid (2 ml, 5 M) was added and mixture was stirred for 5 minutes. The organic phase was separated and the aqueous phase extracted with ether (3×5 ml). The combined organic phases were dried (sodium sulphate) and the solvents removed iii vacuo to provide 2-phenylbutane (56 mg, 0.42 mmol) of 10.3% ee (assessed using gas chromatography, Astec α-DA column, 65° C.).

reactant | 2-phenyl-1-butene | 1 mmol, 132 mg | C1(=CC=CC=C1)C(=C)CC | C10H12
reactant | n-Butyllithium | 0.5 mmol, 22.5 M, 0.2 ml | C(CCC)[Li]
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 5 M, 2 ml | Cl | ClH
catalyst | titanium dichloride | 0.05 mmol, 21 mg | [Cl-].[Cl-].[Ti+2]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-phenylbutane | 0.42 mmol, 56 mg | C1(=CC=CC=C1)C(C)CC | C10H14
